*****************************************************************
* NXP PSMN2R2_30YLC
*
* Polarity N-Channel
* Ratings 30V/2.2E-03OHMS/25A
*
* Date Created Sat Apr  2 18:30:41 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R2_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000594

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00126392749902317 TC=0.00903355058282389,-1.29375580901318e-05
RBD 9 4 0.000745770916361882 TC=0.00903355058282389,-1.29375580901318e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 2.76605757845456e-09
RG 1 2 0.776633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	3186
+ -10	3187
+ -5	3168
+ -4	3153
+ -3	3125
+ -2	2729
+ -1	2037
+ -0.5	1696
+ -0.2	1479
+ -0.1	1404
+ 0	1328.25
+ 0.1	1219.7
+ 0.2	1122.9
+ 0.5	885.6
+ 1	663.2
+ 2	485
+ 3	413.9
+ 4	372.4
+ 5	344.5
+ 6	324.7
+ 8	296.2
+ 10	276.5
+ 12	263.2
+ 15	247.9
+ 20	229.3
+ 25	216.4



.MODEL MINT NMOS(Vto=1.93065819473037 Kp=4.1070e+02 Nfs=420000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Vmax=1000)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=2.83560867994506e-12
+ N=1 M=0.750000000000001 VJ=0.95 Fc=0.5 Cjo=3.2957e-09 Tt=3.7e-08)

.ENDS



