*****************************************************************
* NXP PSMN2R9_25YLC
*
* Polarity N-Channel
* Ratings 25V/3.18E-03OHMS/25A
*
* Date Created Sun Apr  3 10:51:44 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R9_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000999

RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00163634340486374 TC=0.00951131887232482,-1.22593410240722e-05
RBD 9 4 0.000718138531596543 TC=0.00951131887232482,-1.22593410240722e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.83425702513703e-09
RG 1 2 1.97663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1851
+ -10	1842
+ -5	1829
+ -4	1813
+ -3	1783
+ -2	1607
+ -1	1064
+ -0.5	857
+ -0.2	736
+ -0.1	698
+ 0	631.5
+ 0.1	557
+ 0.2	519
+ 0.5	437
+ 1	360
+ 2	285
+ 3	246
+ 4	220
+ 5	202
+ 6	188
+ 8	167
+ 10	154
+ 12	145
+ 15	138
+ 20	129



.MODEL MINT NMOS(Vto=1.9126181763217 Kp=2.7936e+02 Nfs=470000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Vmax=1050)

.MODEL DBD D(Bv=25.00 Ibv=2.50E-04 Rs=1E-6 Is=1.56027069686352e-12
+ N=1 M=0.27 VJ=0.99 Fc=0.5 Cjo=2.068e-09 Tt=3.156e-08)

.ENDS
