**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  High Current Air Coil
* Matchcode:              WE-AC HC 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-24
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1010_7449150023_23n 1 2
C1 1 N7 0.9p
L1 1 N1 22.5n
L2 N1 N2 5.4765p
L3 N2 N3 4.1302p
L4 N3 N4 3.6863p
L5 N4 N5 3.8895p
L6 N5 N6 208.1224p
R1 2 N1 3.9812
R2 2 N2 4.7057
R3 2 N3 4.2675
R4 2 N4 3.3716
R5 2 N5 123.0715m
R6 2 N6 30.1203m
R7 2 N7 870.0374m
R8 2 1 10g
.ends 
*******
.subckt 1010_7449150046_46.5n 1 2
C1 1 N7 1.1497p
L1 1 N1 46.5n
L2 N1 N2 5.4754p
L3 N2 N3 4.1292p
L4 N3 N4 3.6857p
L5 N4 N5 3.8902p
L6 N5 N6 394.9342p
R1 2 N1 3.9798
R2 2 N2 4.7047
R3 2 N3 4.2664
R4 2 N4 3.3698
R5 2 N5 296.9388m
R6 2 N6 66.7246m
R7 2 N7 972.1795m
R8 2 1 10g
.ends 
*******
.subckt 1010_7449150079_79n 1 2
C1 1 N7 1.1114p
L1 1 N1 79n
L2 N1 N2 5.4930p
L3 N2 N3 4.1587p
L4 N3 N4 3.7257p
L5 N4 N5 3.9406p
L6 N5 N6 920.2439p
R1 2 N1 3.9833
R2 2 N2 4.7074
R3 2 N3 4.2697
R4 2 N4 3.3751
R5 2 N5 638.5259m
R6 2 N6 93.0447m
R7 2 N7 1.084
R8 2 1 10g
.ends 
*******
.subckt 1010_7449150111_111n 1 2
C1 1 N7 1.20481p
L1 1 N1 111n
L2 N1 N2 5.5502p
L3 N2 N3 4.2433p
L4 N3 N4 3.8299p
L5 N4 N5 4.0565p
L6 N5 N6 1.2805n
R1 2 N1 3.9170
R2 2 N2 4.6597
R3 2 N3 4.0147
R4 2 N4 2.4344
R5 2 N5 1.0484
R6 2 N6 79.9597m
R7 2 N7 1.4077
R8 2 1 10g
.ends 
*******
.subckt 1010_7449150146_146n 1 2
C1 1 N7 1.1436p
L1 1 N1 146n
L2 N1 N2 5.5637p
L3 N2 N3 4.2639p
L4 N3 N4 3.8552p
L5 N4 N5 4.0825p
L6 N5 N6 2.1591n
R1 2 N1 3.9477
R2 2 N2 4.6815
R3 2 N3 4.0441
R4 2 N4 2.5118
R5 2 N5 1.3683
R6 2 N6 89.7200m
R7 2 N7 1.4816
R8 2 1 10g
.ends 
*******
.subckt 1212_7449152022_22n 1 2
C1 1 N7 1.5618p
L1 1 N1 22n
L2 N1 N2 5.4990p
L3 N2 N3 4.1666p
L4 N3 N4 3.7401p
L5 N4 N5 3.9583p
L6 N5 N6 148.7359p
R1 2 N1 4.7056
R2 2 N2 4.2673
R3 2 N3 3.3714
R4 2 N4 2.5884
R5 2 N5 81.4271m
R6 2 N6 47.3553m
R7 2 N7 877.7814m
R8 2 1 10g
.ends 
*******
.subckt 1212_7449152042_42n 1 2
C1 1 N7 1.7421p
L1 1 N1 42n
L2 N1 N2 5.5412p
L3 N2 N3 4.2397p
L4 N3 N4 3.8406p
L5 N4 N5 4.0814p
L6 N5 N6 399.5081p
R1 2 N1 4.7119
R2 2 N2 4.2753
R3 2 N3 3.3845
R4 2 N4 2.6108
R5 2 N5 178.9469m
R6 2 N6 44.7409m
R7 2 N7 968.5215m
R8 2 1 10g
.ends 
*******
.subckt 1212_7449152066_66n 1 2
C1 1 N7 1.7501p
L1 1 N1 66n
L2 N1 N2 5.6146p
L3 N2 N3 4.3631p
L4 N3 N4 4.0075p
L5 N4 N5 4.2823p
L6 N5 N6 622.0022p
R1 2 N1 4.7305
R2 2 N2 4.2984
R3 2 N3 3.4216
R4 2 N4 2.6729
R5 2 N5 264.4983m
R6 2 N6 50.2087m
R7 2 N7 1.8293
R8 2 1 10g
.ends 
*******
.subckt 1212_7449152090_90n 1 2
C1 1 N7 1.5560p
L1 1 N1 90n
L2 N1 N2 5.7967p
L3 N2 N3 4.6513p
L4 N3 N4 4.3827p
L5 N4 N5 4.7188p
L6 N5 N6 1.0331n
R1 2 N1 4.8117
R2 2 N2 4.3975
R3 2 N3 3.5772
R4 2 N4 2.9236
R5 2 N5 452.1122m
R6 2 N6 80.6810m
R7 2 N7 2.1291
R8 2 1 10g
.ends 
*******
.subckt 1212_7449152111_117n 1 2
C1 1 N7 1.1939p
L1 1 N1 117n
L2 N1 N2 5.9482p
L3 N2 N3 4.9447p
L4 N3 N4 4.8166p
L5 N4 N5 5.2815p
L6 N5 N6 1.3816n
R1 2 N1 4.9215
R2 2 N2 4.5306
R3 2 N3 3.7793
R4 2 N4 3.2253
R5 2 N5 574.7038m
R6 2 N6 72.9541m
R7 2 N7 3.5280
R8 2 1 10g
.ends 
*******
